US06576722B2
Synthesis by Free Radical Polymerization of Copolymer CPO/CHMA/BMA/IBMA/HPMA
CHMA, BMA, IBMA and HPMA residues were copolymerized using a halogenated CPO initiator according to the following:

reactant | IBMA | CC(=C)C(=O)OC1C[C@H]2CC[C@@]1(C2(C)C)C | C14H22O2
reactant | HPMA | CC(COC(=O)C(=C)C)O | C7H12O3
product | IBMA HPMA | CC(=C)C(=O)OC1C[C@H]2CC[C@@]1(C2(C)C)C.CC(COC(=O)C(=C)C)O | InChI=1S/C14H22O2.C7H12O3/c1-9(2)12(15)16-11-8-10-6-7-14(11,5)13(10,3)4;1-5(2)7(9)10-4-6(3)8/h10-11H,1,6-8H2,2-5H3;6,8H,1,4H2,2-3H3/t10-,11?,14+;/m1./s1
